US05602137
Preparation of 5-Ethyl-[1,2,4]triazolo[1,5-a]pyrimidine-7-ol
33.6 g (0.4 mol) of 3-amino-1H-1,2,4-triazole and 52 g (0.4 mol) of methyl 3-oxo-n-valerate were heated in 130 ml acetic acid for 70 min. After cooling crystals precipitated, which were filtered by suction and dissolved in 1 l water. After several extractions with dichloromethane the combined organic layers were dried over sodium sulfate, and the solvent distilled off in vacuo. The title compound crystallized during the evaporation in colorless crystals, m.p. 212° C.

reactant | 3-amino-1H-1,2,4-triazole | 0.4 mol, 33.6 g | NC1=NNC=N1 | C2H4N4
reactant | methyl 3-oxo-n-valerate | 0.4 mol, 52 g | CCC(=O)CC(=O)OC | C6H10O3
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
product | 5-Ethyl-[1,2,4]triazolo[1,5-a]pyrimidine-7-ol | C(C)C1=NC=2N(C(=C1)O)N=CN2 | C7H8N4O
